US05534515
Ac. 7-Chloro-1-isobutyl-2-methylpyrrolo[2,3-d]pyridazine
3.8 g (12 mmol) of 1-isobutyl-2-methyl-6,7-dihydropyrrolo[2,3-d]pyridazine are reacted at 100° C. for 2 h in 30 ml of phosphorus oxychloride. Purification: chromatography on silica gel (eluent: toluene/dioxane=2:1). Yield: 75%. M.p.: 96°-99° C.

reactant | 1-isobutyl-2-methyl-6,7-dihydropyrrolo[2,3-d]pyridazine | 12 mmol, 3.8 g | C(C(C)C)N1C(=CC2=C1CNN=C2)C | C11H17N3
reactant | phosphorus oxychloride | 30 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 7-Chloro-1-isobutyl-2-methylpyrrolo[2,3-d]pyridazine | Yield: 75% | ClC=1N=NC=C2C1N(C(=C2)C)CC(C)C | C11H14ClN3
